US06670372B2
Using the general method of Example 12 Part A, 2-(ethoxymethyl)-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline (1.5 g, 4.13 mmol) was reacted with iodobenzene (0.51 mL, 4.54 mmol) at 40° C. After 50 minutes the reaction was judged complete. The volatiles were removed under reduced pressure and the resulting oil was partitioned between dichloromethane and 5% aqueous sodium bicarbonate. The aqueous layer was extracted with dichloromethane. The organic fractions were combined, washed with brine, dried with anhydrous sodium sulfate, and then concentrated under reduced pressure to leave a brown oil. The oil was purified by chromatography over silica gel (98/2 dichloromethane/methanol) to provide 1.25 g of 2-(ethoxymethyl)-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinoline as a brown glassy solid.

reactant | 2-(ethoxymethyl)-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | 4.13 mmol, 1.5 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCC#C | C18H19N3O2
reactant | iodobenzene | 4.54 mmol, 0.51 mL | IC1=CC=CC=C1 | C6H5I
product | 2-(ethoxymethyl)-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinoline | 1.25 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCC#CC1=CC=CC=C1 | C24H23N3O2
